US04398029
A mixture of 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3carboxylic acid hydrochloride (0.18 g), triethylamine (0.12 g), allyl bromide (0.09 g), and DMF (3 ml) was heated with stirring at 90° for 3 hours and the solvent was evaporated. The residue was dissolved in 2N sodium hydroxide solution. The alkaline solution was adjusted to pH 7 with aqueous acetic acid and extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was recrystallized from a mixture of DMF and ethanol to give 7-(4-allyl-1-piperazinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.055 g), mp 227°-230° C. (decomp.).

reactant | 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3carboxylic acid hydrochloride | 0.18 g | Cl.C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 0.09 g | C(C=C)Br | C3H5Br
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-(4-allyl-1-piperazinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.055 g | C(C=C)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C19H21F2N3O3
